US08372874B2
To a solution of 0.43 g (1.75 mmol) of ethyl 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoate in THF/water (4/1, 6.5 mL) are added 84 mg (3.49 mmol) of lithium hydroxide monohydrate. The reaction is stirred at room temperature for 18 h. Then methanol (0.5 mL) is added and the reaction is heated to 45° C. for 16 h. Additional lithium hydroxide monohydrate (83 mg, 3.49 mmol) is added and the reaction is heated to 55° C. for 3 h. The reaction mixture is partitioned between DCM (8 mL) and water (10 mL). The aqueous layer is cooled in an ice bath, acidified with 6M aqueous HCl solution to pH 1 and extracted with DCM (3×15 mL). The combined organic extracts are dried (MgSO4), filtered and the filtrate is concentrated under reduced pressure to afford 351 mg of 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoic acid. Yield: 92%; ES-MS: m/z 219 [M+H]; 1H NMR (250 MHz, CHLOROFORM-d) δ ppm 1.43-1.76 (9H, m), 1.96-2.16 (1H, m), 2.31 (1H, quin, J=7.31 Hz), 2.56-2.77 (2H, m), 3.37 (1H, dd, J=8.22, 7.16 Hz), 3.68-4.05 (3H, m), 7.62 (1H, br. s.)

reactant | ethyl 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoate | 1.75 mmol, 0.43 g | CC(C(=O)OCC)(C)SCC[C@@H]1COCC1 | C12H22O3S
reactant | lithium hydroxide monohydrate | 3.49 mmol, 84 mg | O.[OH-].[Li+]
reactant | methanol | 0.5 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 3.49 mmol, 83 mg | O.[OH-].[Li+]
solvent | dioxane water | 6.5 mL | O1CCOCC1.O
product | 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoic acid | 351 mg, Yield: 92% | CC(C(=O)O)(C)SCC[C@@H]1COCC1 | C10H18O3S
